US09260455B2
Step 3. Synthesis of (4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine (3)
1,8-Diazabicyclo[5.4.0]undec-7-ene (0.5 mL, 3 mmol) was added to a suspension of N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C22) (1.40 g, 3.48 mmol) in methanol (100 mL), and the resulting mixture was heated at 80° C. for 18 hours. After removal of solvent in vacuo, the residue was partitioned between saturated aqueous sodium bicarbonate solution and ethyl acetate; the aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification via silica gel chromatography (Eluent: ethyl acetate) afforded the product as a white solid. Yield: 840 mg, 2.82 mmol, 81%. LCMS m/z 299.2 [M+H+]. 1H NMR (400 MHz, CD3OD) δ 7.30-7.38 (m, 1H), 6.92-7.00 (m, 2H), 4.08 (dd, J=11.1, 2.2 Hz, 1H), 3.69-3.78 (m, 1H), 3.65 (d, J=11.1 Hz, 1H), 2.83-2.93 (m, 2H), 2.62-2.68 (m, 1H), 1.65-1.76 (m, 1H), 1.54 (ddd, J=13.1, 4.1, 2.4 Hz, 1H), 1.22 (d, J=6.2 Hz, 3H).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 3 mmol, 0.5 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 3.48 mmol, 1.40 g | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C)NC(C2=CC=CC=C2)=O | C21H20F2N2O2S
solvent | methanol | 100 mL | CO | CH4O
product | (4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C)N | C14H16F2N2OS
